US04490369
(a) 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane
This compound was prepared analogous to Example 111(a) by reacting 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one with 1-bromo-3-chloro-propane.

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
product | 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-chloro-propane | COC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1OC | C15H18ClNO3
